2135-07-15 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2135-7-14**] 11:45 AM
 EKG - At [**2135-7-14**] 01:03 PM
 URINE CULTURE - At [**2135-7-14**] 01:03 PM
 BRONCHOSCOPY - At [**2135-7-14**] 03:02 PM
 ENDOSCOPY - At [**2135-7-14**] 04:00 PM
 EKG - At [**2135-7-14**] 10:56 PM
 BLOOD CULTURED - At [**2135-7-15**] 04:00 AM
   [**7-14**]
   - Patient had EGD with no source of bleeding
   - He was kept intubated for colonoscopy on [**2135-7-15**].  OG tube place for
   golytely prep
   - He was tachycardic and his Hct only bumped 1.5 points with 1 U PRBC
   so 2 more were given.
   - given kayexalate for K+ of 5.5
   - Cardiac markers trending up but ECG without changes.  THis is likely
   due to demand ischemia in the setting of anemia and tachycardia.
   - A-line placed for tachycardia and hypotension, that have been
   responsive to NS boluses of 500 cc.
   - Melena during go-lytely prep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-14**] 01:27 PM
   Midazolam (Versed) - [**2135-7-14**] 03:03 PM
   Fentanyl - [**2135-7-14**] 03:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-15**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 106 (63 - 123) bpm
   BP: 88/38(54) {88/38(54) - 191/75(113)} mmHg
   RR: 19 (7 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,430 mL
                                                                  4,730 mL
   PO:
           TF:
   IVF:
                                                                    818 mL
                                                                  1,152 mL
   Blood products:
                                                                    722 mL
                                                                    353 mL
   Total out:
                                                                  1,740 mL
                                                                  1,000 mL
   Urine:
                                                                  1,620 mL
                                                                  1,000 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                  3,730 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/37/167/20/-5
   Ve: 9.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Gen: Intubated and sedated
   HEENT: PERRL
   CV: Tachy, RRR, 3/6 SEM at LLSB,
   Pulm: CTAB, equal bilaterally
   Abd: Soft NT, ND
   Ext: Pulses 2 + symmetric
   Melena coming out of flexiseal
   Labs / Radiology
   167 K/uL
   9.9 g/dL
   204 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.8 mEq/L
   92 mg/dL
   117 mEq/L
   146 mEq/L
   29.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2135-7-14**]  03:37 PM
                             [**2135-7-14**]  04:51 PM
                             [**2135-7-14**]  08:28 PM
                             [**2135-7-14**]  08:35 PM
                             [**2135-7-15**]  03:54 AM
                             [**2135-7-15**]  04:17 AM
   WBC
   17.6
   18.7
   13.7
   Hct
   23.5
   25.0
   29.2
   Plt
   [**Telephone/Fax (3) 7994**]
   Cr
   2.0
   1.7
   TropT
   0.63
   0.74
   TCO2
   22
   20
   Glucose
   232
   204
   Other labs: CK / CKMB / Troponin-T:147/19/0.74, Lactic Acid:1.6 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   86M with h/o [**Telephone/Fax (3) 1882**], recent GIB of unclear etiology, presenting with
   altered mental status (by report), HCT drop, guaic positive stools, and
   transient hypotension.
   .
   # ?GIB - no known h/o cirhosis or NSAIDs abuse, though on aspirin and
   plavix.  no recent groin access to suggest RP bleed at present,
   although had R femoral TLC placed in ED (sterile per ED documentation),
   and no recent medications changes to suggest hemolysis.  given dark
   stools, and HCT drop, concerning for duodenal source given recent EGD
   results, so would proceed with repeat EGD now.
   - appreciate GI recs.
   - plan for EGD today, though likely to need intubation.
   - continue protonix gtt.
   - ACCESS = TLC, PIVs.
   - T&C x2 UNITS.
   - cycle HCT Q6HR.
   - transfuse additional 1U PRBC now.
   - continue fluid [**Last Name (LF) 7980**], [**First Name3 (LF) **] give 2L IVF now.
   .
   # hypotension - concerning for GIB given guaic positive stool,
   decreased HCT, and recent similar admission.  ddx also includes sepsis,
   so would evaluate for possible sources as below, though no obvious
   infectious source at present.
   - CXR (PNA vs perforated ulcer), UA, BCx.
   - check AXR supine and upright after EGD (per radiology ?free air under
   right hemi-diaphragm).
   - continue volume resuscitation (received unknown fluids at OSH, 1L in
   ED), will give 1-2L now, and follow pulm status given known CHF.
   - continue levophed gtt for MAP>65.
   - cycle HCT as above, and transfuse 1U PRBC now.
   .
   # leukocytosis - no bands, and while this could represent a stress
   reaction, given hypotension, also concerning for infectious etiology.
   received empiric CTX and azithro at [**Hospital1 19**]-N.
   - hold antibiotics for now.
   - infectious workup as above.
   .
   # confusion - per family, current confusion is typical of pt's
   hospitalizations, and likely multifactorial with contribution from poor
   neurologic reserve (h/o CVA, chronic vascular changes), hypotension,
   and possible septic picture.  No evidence to suggest primary CNS
   infection at present (no meningismus, headache, kernig, brudzinki
   negative), no focal neurologic deficits on exam.
   - hold seroquel.
   - haldol prn for ICU psychosis.
   - follow mental status and neuro exam.
   - frequent re-orientation.
   - infectious workup as above.
   .
   # hyperkalemia - likely [**3-14**] ARF. no ECG changes c/w hyperkalemia.
   - fluid replete as above.
   - trend K in afternoon.
   - if remains elevated, would give insulin + d50, 1 amp bicarb, and can
   give kayexalate after EGD if no gross findings.
   .
   # ARF - likely [**3-14**] volume depletion.  lactate negative.
   - hydrate with volume as above.
   - trend creatinine.
   - check urine for eos given recent antibiotics.
   - consider renal consult if k not improving.
   .
   # CAD - s/p [**Month/Day (2) 1882**].  denies chest pain or dyspnea, and EKG without
   frank evidence of ischemia though has old LBBB, and worsening TWI and
   STD in V4-6 in setting of sinus tach and anemia (likely reflects both
   LVH and some demand ischemia).  feels ACS is unlikely, but given
   +troponin and recent [**Last Name (LF) 1882**], [**First Name3 (LF) **] proceed as follows:
   - hold aspirin, and plavix at present, once EGD complete, would restart
   aspirin, and discuss restarting plavix based on EGD findings.
   (per discussion with pt's cardiologist Dr. [**Last Name (STitle) 7981**] [**Telephone/Fax (1) 7982**] pager #
   [**Pager number 7983**]), prefer to continue aspirin, ok to hold plavix pending EGD).
   - hold metoprolol, lisinopril given hypotension.
   - transfuse to maintain HCT > 27.
   - consider repeat TTE if HCT stable, and afebrile to evaluate for WMA.
   .
   # CHF - EF 40% at OSH in [**6-18**], on lasix at home.
   - cautious fluid resuscitation as above.
   - hold lisinopril, and lasix for now.
   .
   # PVD - hold aspirin, plavix for now.
   .
   # HTN - hold antihypertensives given hypotension.
   .
   # DM2 - on orals at home, will cover with SSI for now.
   .
   # hyperlipidemia - hold statin for now.
   .
   # FEN: NPO
   .
   # Prophylaxis: pneumoboots
   # Access: PIVs, R FEMORAL TLC, with small hematoma <2cm.  will need to
   change femoral line if remain hypotensive overnight.
   # Code: DNR/DNI (confirmed with daughter, [**Name (NI) **]), but intubated for
   procedures.
   # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-7-14**] 11:45 AM
   18 Gauge - [**2135-7-14**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2135-07-15 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient had EGD with no source of bleeding
   - He was kept intubated for colonoscopy on [**2135-7-15**].  OG tube place for
   golytely prep
   - He was tachycardic and his Hct only bumped 1.5 points with 1 U PRBC
   so 2 more were given.
   - given kayexalate for K+ of 5.5
   - Cardiac markers trending up but ECG without changes.  THis is likely
   due to demand ischemia in the setting of anemia and tachycardia.
   - A-line placed for tachycardia and hypotension, but after NS bolus,
   heart rate came down.
   - Melena during go-lytely prep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-14**] 01:27 PM
   Midazolam (Versed) - [**2135-7-14**] 03:03 PM
   Fentanyl - [**2135-7-14**] 03:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-15**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 102 (63 - 123) bpm
   BP: 110/46(67) {84/36(52) - 191/75(113)} mmHg
   RR: 20 (0 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,430 mL
                                                                  4,749 mL
   PO:
           TF:
   IVF:
                                                                    818 mL
                                                                  1,171 mL
   Blood products:
                                                                    722 mL
                                                                    353 mL
   Total out:
                                                                  1,740 mL
                                                                  1,000 mL
   Urine:
                                                                  1,620 mL
                                                                  1,000 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                  3,749 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/37/167/20/-5
   Ve: 9.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   9.9 g/dL
   204 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.8 mEq/L
   92 mg/dL
   117 mEq/L
   146 mEq/L
   29.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2135-7-14**]  03:37 PM
                             [**2135-7-14**]  04:51 PM
                             [**2135-7-14**]  08:28 PM
                             [**2135-7-14**]  08:35 PM
                             [**2135-7-15**]  03:54 AM
                             [**2135-7-15**]  04:17 AM
   WBC
   17.6
   18.7
   13.7
   Hct
   23.5
   25.0
   29.2
   Plt
   [**Telephone/Fax (3) 7994**]
   Cr
   2.0
   1.7
   TropT
   0.63
   0.74
   TCO2
   22
   20
   Glucose
   232
   204
   Other labs: PT / PTT / INR:13.7/24.3/1.2, CK / CKMB /
   Troponin-T:147/19/0.74, Lactic Acid:1.6 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging:
    EGD:
   Findings: Esophagus: Normal esophagus.
   Stomach:
    Other Several linear erythematous streaks consistent with mild
   gastritis were noted.
   Duodenum: Normal duodenum.
   Impression: Mild gastritis.
   Otherwise normal EGD to second part of the duodenum
   Recommendations: No cause of bleeding found.
   4 L Golytely tonight for colonoscopy in the AM.
   KUB: Inconclusive study for free air. If clinical concern CT should be
   done.
   Assessment and Plan
   86M with h/o [**Telephone/Fax (3) 1882**], recent GIB of unclear etiology, presenting with
   altered mental status (by report), HCT drop, guaic positive stools, and
   transient hypotension.
   .
   # Lower GIB
 Despite melanotic stools suggestive of upper GI source
   patient
s EGD was negative.
   - plan for colonoscopy this am
   - appreciate GI recs.
   - continue protonix gtt.
   - ACCESS = TLC, PIVs.
   - T&C x2 UNITS.
   - cycle HCT Q6HR.
   - continue fluid resuscitation PRN for hypotension
   .
   # hypotension/tachycardia
 likely [**3-14**] GIB and hypovolemia but working
   up for sepsis as well.
   - UA, BCx, UCx pending
   - AXR supine and upright after EGD not enough to r/o free-air. Await
   final read and if necessary can check CT but clinically does not seem
   likely
   - continue volume resuscitation (received unknown fluids at OSH, 1L in
   ED), will give 1-2L now, and follow pulm status given known CHF.
   - continue levophed gtt for MAP>65.
   - cycle HCT as above, and transfuse 1U PRBC now.
   - given no obvious source at present, will hold off on antibiotics for
   now, though would have low threshold to add empiric coverage for
   possible abdominal source (cipro/flagyl vs vanc/zosyn given recent
   hospitalization).
   .
   # leukocytosis - no bands, and while this could represent a stress
   reaction, given hypotension, also concerning for infectious etiology.
   received empiric CTX and azithro at [**Hospital1 19**]-N.
   - hold antibiotics for now.
   - infectious workup as above.
   .
   # confusion - per family, current confusion is typical of pt's
   hospitalizations, and likely multifactorial with contribution from poor
   neurologic reserve (h/o CVA, chronic vascular changes), hypotension,
   and possible septic picture.  No evidence to suggest primary CNS
   infection at present (no meningismus, headache, kernig, brudzinki
   negative), no focal neurologic deficits on exam.
   - hold seroquel.
   - haldol prn for ICU psychosis.
   - follow mental status and neuro exam.
   - frequent re-orientation.
   - infectious workup as above.
   .
   # ARF - likely [**3-14**] volume depletion.  lactate negative.
   - hydrate with volume as above.
   - trend creatinine.
   .
   # CAD - s/p [**Month/Day (2) 1882**].  denies chest pain or dyspnea, and EKG without
   frank evidence of ischemia though has old LBBB, and worsening TWI and
   STD in V4-6 in setting of sinus tach and anemia (likely reflects both
   LVH and some demand ischemia).  feels ACS is unlikely, but given
   +troponin and recent [**Last Name (LF) 1882**], [**First Name3 (LF) **] proceed as follows:
   - per discussion with pt's cardiologist (Dr. [**Last Name (STitle) 7981**] [**Telephone/Fax (1) 7982**] pager
   # [**Pager number 7983**]), prefer to continue aspirin, ok to hold plavix pending EGD->now
   that EGD negative may consider restart plavix but will hold until
   colonoscopy completed.
   - hold metoprolol, lisinopril given hypotension.
   - transfuse to maintain HCT > 27.
   - consider repeat TTE if HCT stable, and afebrile to evaluate for WMA.
   .
   # CHF - EF 40% at OSH in [**6-18**], on lasix at home.
   - cautious fluid resuscitation as above.
   - hold lisinopril, and lasix for now.
   - follow weights, I/Os, and UOP closely.
   .
   # FEN: NPO
   # Prophylaxis: pneumoboots
   # Access: PIVs, R FEMORAL TLC, with small hematoma <2cm.  Consider
   re-site line today
   # Code: DNR/DNI (confirmed with daughter, [**Name (NI) **]).
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2135-7-14**] 11:45 AM
   18 Gauge - [**2135-7-14**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2135-07-16 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - colonoscopy negative for bleed
   - CT scan negative for RP bleed FR pending
   - Hypernatremic to 154 on pm lytes. Free water deficit=3L. Needs 1/2 NS
   at 200 mL/hr X 3L to make up for sodium without dropping too quickly.
   - Restarted plavix per GI recs
   - Ordered TTE for elevated trops ?WMA
   - Restarted digoxin last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2135-7-15**] 03:05 PM
   Fentanyl - [**2135-7-15**] 03:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.7
C (96.3
   HR: 97 (94 - 119) bpm
   BP: 129/56(83) {70/33(47) - 145/63(94)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  9,968 mL
                                                                    812 mL
   PO:
             TF:
   IVF:
                                                                  3,665 mL
                                                                    812 mL
   Blood products:
                                                                  1,078 mL
   Total out:
                                                                  3,085 mL
                                                                    670 mL
   Urine:
                                                                  2,485 mL
                                                                    670 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  6,883 mL
                                                                    142 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 499 (499 - 499) mL
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   Plateau: 11 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/28/96.[**Numeric Identifier 181**]/19/-3
   Ve: 8.3 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: NAD
   HEENT: PERRL anicteric sclera
   CV: Tachy, RRR, 3/6 SEM at LLSB
   Pulm: CTAB, equal bilaterally
   Abd: Soft NT, ND
   Ext: Pulses 2 + symmetric
   Labs / Radiology
   123 K/uL
   9.7 g/dL
   175 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.8 mEq/L
   56 mg/dL
   126 mEq/L
   155 mEq/L
   28.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2135-7-14**]  08:28 PM
                             [**2135-7-14**]  08:35 PM
                             [**2135-7-15**]  03:54 AM
                             [**2135-7-15**]  04:17 AM
                             [**2135-7-15**]  09:05 AM
                             [**2135-7-15**]  03:34 PM
                             [**2135-7-15**]  06:50 PM
                             [**2135-7-15**]  10:21 PM
                             [**2135-7-16**]  02:49 AM
                             [**2135-7-16**]  05:31 AM
   WBC
   18.7
   13.7
   11.4
   11.3
   Hct
   25.0
   29.2
   26.2
   30.4
   27.0
   28.2
   Plt
   [**Telephone/Fax (3) 8019**]23
   Cr
   2.0
   1.7
   1.2
   1.2
   TropT
   0.63
   0.74
   0.57
   TCO2
   20
   19
   19
   Glucose
   232
   204
   145
   175
   Other labs: PT / PTT / INR:13.7/24.3/1.2, CK / CKMB /
   Troponin-T:119/20/0.57, Lactic Acid:1.6 mmol/L, Ca++:7.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   COLONOSCOPY [**2135-7-15**]:
   There was a very tight bend at the sigmoid colon which could represent
   previous anastomosis if patient has had prior surgery.
   There were a few areas of a few red drops of blood seen in the
   ascending colon which were washed without underlying lesion seen.
   Mucosa appeared very friable and occasional contact bleeding was seen.
   However, this was minimal and does not account for transfusion
   requirement.
   Polyp in the sigmoid colon
   Bile was seen in the terminal ileum and cecum without evidence of
   blood. Ileum was normal up to 25 cm.
   Otherwise normal colonoscopy to terminal ileum to 20 cm
   Assessment and Plan
   86M with h/o NSTEMI, recent GIB of unclear etiology, presenting with
   altered mental status (by report), HCT drop, guaiac positive stools,
   and transient hypotension.
   .
   # Lower GIB: Hct stable s/p 6units pRBCs here. Colonoscopy without
   source of bleed but difficult anatomy.
   - F/u GI recs
   - Q6h Hct, maintain active T&S, access via TLC/PIVs,
   - ASA and plavix continued as no source of bleed id
   - Change protonix to [**Hospital1 7**]
   - consider tagged red cell scan if bleeds again
   .
   #. Hypernatremia: Likely hypovolemic hypernatremia given intubated.
   - Wrote for 1/2NS to correct Na at <0.5mEq/hr (200mL/hr = 0.5mEq/hr)
   but got 100mL/hr for h/o CAD
   - Check urine lytes if does not correct with IVF and PO intake today.
   # Hypotension/tachycardia: thought likely [**3-14**] GIB and hypovolemia now
   resolved s/p resuscitation. Sepsis w/u pending. Concerned that other
   etiology might be cardiac event in setting of anemia and demand
   ischemia.
   - Consider TTE today although now that more stable could also do this
   as outpatient.
   - F/U BCx pending
   - Ucx negative
   .
   # Confusion: per family, current confusion is typical of pt's
   hospitalizations, and likely multifactorial with contribution from poor
   neurologic reserve (h/o CVA, chronic vascular changes), hypotension,
   and possible septic picture.  No evidence to suggest primary CNS
   infection at present (no meningismus, headache, kernig, brudzinki
   negative), no focal neurologic deficits on exam.
   - hold seroquel.
   - haldol prn for ICU psychosis.
   - follow mental status and neuro exam.
   - frequent re-orientation.
   - infectious workup as above.
   .
   # ARF: Resolving.
   - trend Creatinine, check PM lytes
   .
   # CAD - s/p NSTEMI.  denies chest pain or dyspnea, and EKG without
   frank evidence of ischemia though has old LBBB, and worsening TWI and
   STD in V4-6 in setting of sinus tach and anemia (likely reflects both
   LVH and some demand ischemia). ACS is unlikely
   - Cont ASA; and plavix (Dr. [**Last Name (STitle) 7981**] [**Telephone/Fax (1) 7982**] pager # [**Pager number 7983**])
   - if ctes to have slight hypertension (155 for SBP this am) would
   consider adding back short-acting beta blocker and/or ACE-I
   - consider repeat TTE brile to evaluate for WMA as above.
   .
   # CHF - EF 40% at OSH in [**6-18**], on lasix at home.
   - cautious fluid resuscitation as above.
   - hold lasix for now.
   - follow weights, I/Os, and UOP closely.
   - Restarted dig last night. Will likely need level at some point given
   stopped for a few days and the now-resolving ARF
   ICU Care
   Nutrition: Advance diet as tolerated today
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2135-7-14**] 11:45 AM
   18 Gauge - [**2135-7-14**] 12:00 PM
   Arterial Line - [**2135-7-15**] 08:34 PM
   20 Gauge - [**2135-7-15**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: Change to PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: to floor today